US04065568
0.1 mol of 3-hydrazino-6-chloro-indazole is introduced into 100 ml of pyrocarbonic acid diethyl ester, in the course of which the temperature rises to 45° C. Stirring of the reaction mixture is continued at room temperature until the evolution of CO2 has ended, 200 ml of diethyl ether are then run in, the mixture is cooled to 0° C and the colorless crystals which have precipitated are isolated by filtration. 3-Ethoxycarbonylhydrazino-6-chloroindazole is obtained. After recrystallisation from ethanol, the melting point is 210° - 211° C (yield, 71% of theory).

reactant | 3-hydrazino-6-chloro-indazole | 0.1 mol | N(N)C1=NNC2=CC(=CC=C12)Cl | C7H7ClN4
reactant | pyrocarbonic acid diethyl ester | 100 ml | C(C)OC(=O)OC(=O)OCC | C6H10O5
reactant | CO2 | C(=O)=O | CO2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-Ethoxycarbonylhydrazino-6-chloroindazole | C(C)OC(=O)NNC1=NNC2=CC(=CC=C12)Cl | C10H11ClN4O2
